US09062055B2
Step 4. 1-[6-Chloro-1-(3-fluorophenyl)-1H-indol-2-yl]ethanol
To a mixture of 6-chloro-1-(3-fluorophenyl)-1H-indole-2-carbaldehyde (50 mg, 0.18 mmol) in tetrahydrofuran (5 mL) was added 3.0 M methylmagnesium bromide in ether (0.091 mL, 0.27 mmol). The reaction was stirred at room temperature for 1 hour, quenched with water, and then extracted with ethyl acetate (EtOAc). The combined organic layers were washed with brine, dried over MgSO4 and concentrated to give the desired product (51 mg). The crude product was used directly in next step. LCMS calculated for C16H14ClFNO(M+H)+: m/z=290.1. Found: 289.7.

reactant | 6-chloro-1-(3-fluorophenyl)-1H-indole-2-carbaldehyde | 0.18 mmol, 50 mg | ClC1=CC=C2C=C(N(C2=C1)C1=CC(=CC=C1)F)C=O | C15H9ClFNO
reactant | methylmagnesium bromide | 3.0 M | C[Mg]Br
reactant | ether | 0.27 mmol, 0.091 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-[6-Chloro-1-(3-fluorophenyl)-1H-indol-2-yl]ethanol | 51 mg | ClC1=CC=C2C=C(N(C2=C1)C1=CC(=CC=C1)F)C(C)O | C16H13ClFNO
